US07259266B2
Step 2 Preparation of ethyl 5,7-dichloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 1.0 g (3.5 mmol) of ethyl 6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate in 10 mL of anhydrous dichloromethane was added a solution of 1.5 mL (30 mmol) of iodomonochloride in 5 mL anhydrous dichloromethane. The resulting brown solution was stirred at room temperature for one hour. The reaction was added to 50 mL of ethyl acetate. The organic solution was washed with sat. sodium sulfite solution three times, washed with brine three times and dried over anhydrous magnesium sulfate. Concentration in vacuo afforded 0.8 g (64%) of a yellow solid: 1H NMR (CDC3/300 MHz) 8.00 (s, 1H), 7.01(s, 1H), 5.81(s, 1H), 5.70(q, J=6.6 Hz, 1H), 4.38(m, 2H), 1.40(t, J=7.2 Hz, 3H); MS (ESI+) 357.0 (M+1, 100).

reactant | ethyl 6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 3.5 mmol, 1.0 g | OC=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC | C13H11F3O4
reactant | iodomonochloride | 30 mmol, 1.5 mL | ICl | ClI
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 5,7-dichloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.8 g, 64% | ClC1=C2C=C(C(OC2=CC(=C1O)Cl)C(F)(F)F)C(=O)OCC | C13H9Cl2F3O4
